US07638515B2
4-(5-Bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid ethyl ester
34.45 g (258.91 mmol) of aluminum trichloride is introduced into 354.35 g (237.02 mmol) of 4-bromoanisole. 38.95 g (172.19 mmol) of 2-hydroxy-4-methylene-2-(trifluoromethyl)pentanoic acid ethyl ester is added in drops to this mixture within one hour. After stirring overnight at room temperature, the batch is added to ice water and made acidic with 10% hydrochloric acid. After 3× extraction with ethyl acetate, the combined organic extracts are washed with 1N hydrochloric acid and brine. After drying on magnesium sulfate, the solvent is spun off. Most of the excess 4-bromoanisole is distilled off (10 mbar; bath temperature 110° C.). After chromatography on silica gel (mobile solvent ethyl acetate/hexane), 36.87 g (51.8%) of the desired compound is obtained.

reactant | aluminum trichloride | 258.91 mmol, 34.45 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-bromoanisole | 237.02 mmol, 354.35 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 2-hydroxy-4-methylene-2-(trifluoromethyl)pentanoic acid ethyl ester | 172.19 mmol, 38.95 g | C(C)OC(C(CC(C)=C)(C(F)(F)F)O)=O | C9H13F3O3
reactant | hydrochloric acid | Cl | ClH
product | 4-(5-Bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid ethyl ester | 36.87 g, 51.8% | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)Br)OC)(C(F)(F)F)O)=O | C16H20BrF3O4
